US07498440B2
Preparation of 1-{2-[(2,4-dibromophenyl)oxy]ethyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
Following the general procedure outlined in Example 4, 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (0.0557 g, 0.190 mmol) and 2-bromoethyl 2,4-dibromophenyl ether (0.110 g, 0.306 mmol) in 2 CH3CN/3 CHCl3 (4.0 mL) were reacted to give the desired product (0.0525 g, 43.8%). EI-MS m/z 572(M+) Rt (2.26 min).

reactant | 1-azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.190 mmol, 0.0557 g | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 2-bromoethyl 2,4-dibromophenyl ether | 0.306 mmol, 0.110 g | BrC1=C(C=CC(=C1)Br)OCCBr | C8H7Br3O
solvent | CH3CN | 4.0 mL | CC#N | C2H3N
product | 1-{2-[(2,4-dibromophenyl)oxy]ethyl}-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 0.0525 g, 43.8% | [Br-].BrC1=C(C=CC(=C1)Br)OCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C28H30Br2NO2.BrH/c29-24-11-12-26(25(30)21-24)33-20-19-31-16-13-27(14-17-31,15-18-31)28(32,22-7-3-1-4-8-22)23-9-5-2-6-10-23;/h1-12,21,32H,13-20H2;1H/q+1;/p-1
